US07410984B2
3-{4-[3-(4-Aminophenyl)-5-chloro-2-oxo-2H-pyridin-1-ylmethyl]phenyl}-propionic acid ethyl ester (P10)
Acetic acid (1 mL) followed by iron (160 mg, 2.9 mmol) were added to a solution of 3-(4-[5-chloro-3-(4-nitrophenyl)-2-oxo-2H-pyridin-1-ylmethyl]phenyl}-propionic acid ethyl ester (0.31 g, 0.72 mmol) in ethanol (10 mL) and water (5 mL) with stirring. The mixture was then heated at reflux for 2 hours and allowed to cool to room temperature. After basification with aqueous ammonia the mixture was filtered through a pad of celite (Diatomaceous Earth) and the filtrate evaporated to dryness. The residue was taken up in aqueous sodium bicarbonate/ethyl acetate and the organic layer washed with brine, dried over anhydrous sodium sulfate, filtered and evaporated to dryness. After purification by chromatography on silica gel with a gradient of 30-50% ethyl acetate in hexane the title compound was obtained as an oil.

reactant | Acetic acid | 1 mL | C(C)(=O)O | C2H4O2
reactant | 3-(4-[5-chloro-3-(4-nitrophenyl)-2-oxo-2H-pyridin-1-ylmethyl]phenyl}-propionic acid ethyl ester | 0.72 mmol, 0.31 g | C(C)OC(CCC1=CC=C(C=C1)CN1C(C(=CC(=C1)Cl)C1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C23H21ClN2O5
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 5 mL | O | H2O
catalyst | iron | 2.9 mmol, 160 mg | [Fe] | Fe
product | 3-{4-[3-(4-Aminophenyl)-5-chloro-2-oxo-2H-pyridin-1-ylmethyl]phenyl}-propionic acid ethyl ester | C(C)OC(CCC1=CC=C(C=C1)CN1C(C(=CC(=C1)Cl)C1=CC=C(C=C1)N)=O)=O | C23H23ClN2O3
